US07897595B2
A mixture of 2-methoxy-5-methylene-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (495 mg, 1.73 mmol), 10% Pd/C (60 mg) and MeOH (40 ml) was stirred under a H2 atmosphere (1 atm) for 2 h at ambient temperature. Filtration and concentration of the filtrate in vacuo gave 490 mg (98%) of 2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (DMSO-d6) δ 7.52 (d, 1H), 6.65 (m, 1H), 3.94-3.73 (m, 5H), 3.65-3.44 (m, 2H), 3.24-3.05 (m, 3H), 1.20 (m, 3H) ppm. A mixture of 2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (97.0 mg, 346 μmol) and K2CO3 (100 mg) in MeOH (10 ml) was heated at reflux for 2 h. The reaction mixture was parted between EtOAc and NaHCO3.The organic phase was washed with brine, dried over Na2SO4 and concentrated in vacuo. Chromatographic purification rendered 63 mg (95%) of 2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 7.35 (d, 1H), 6.51 (d, 1H), 3.90 (s, 3H), 3.10 (m, 2H), 3.04-2.93 (m, 4H), 2.75 (dd, 1H), 1.30 (d, 3H) ppm.

reactant | 2-methoxy-5-methylene-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 1.73 mmol, 495 mg | COC=1C=CC2=C(CCN(CC2=C)C(C(F)(F)F)=O)N1 | C13H13F3N2O2
catalyst | Pd/C | 60 mg | [Pd] | Pd
solvent | MeOH | 40 ml | CO | CH4O
product | 2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 490 mg, 98% | COC=1C=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N1 | C13H15F3N2O2
